US06858651B2
To 1.72 g (4.58 mmol) trans-Methanesulfonic acid 4-[(4-chloro-phenoxycarbonyl)-methyl-amino]-cyclohexylmethyl ester in 17 ml DMF, 0.78 g (6.86 mmol, 1.5 eq) potassium thioacetate were added and the mixture was heated to 100° C. for 10 min. The mixture was concentrated under vacuum and the residue was dissolved in saturated NaHCO3/Et2O(3×). The organic phases were washed with brine, dried over Na2SO4 and evaporated to yield 1.69 g (quantitative) of trans-Thioacetic acid S-{4-[(4-chloro-phenoxycarbonyl)-methyl-amino]-cyclohexylmethyl} ester, MS: 356 (MH+).

reactant | trans-Methanesulfonic acid 4-[(4-chloro-phenoxycarbonyl)-methyl-amino]-cyclohexylmethyl ester | 4.58 mmol, 1.72 g | ClC1=CC=C(OC(=O)N([C@@H]2CC[C@H](CC2)COS(=O)(=O)C)C)C=C1 | C16H22ClNO5S
reactant | potassium thioacetate | 6.86 mmol, 0.78 g, 1.5 eq | C(C)(=S)[O-].[K+]
solvent | DMF | 17 ml | CN(C)C=O | C3H7NO
product | trans-Thioacetic acid S-{4-[(4-chloro-phenoxycarbonyl)-methyl-amino]-cyclohexylmethyl} ester | 1.69 g | ClC1=CC=C(OC(=O)N([C@@H]2CC[C@H](CC2)CSC(C)=O)C)C=C1 | C17H22ClNO3S
